US05461161
1. Preparation of 3-Amino-2-fluoro-4-methylpyridine
To a solution of 10.1 g (grams) (65 mmol (millimole)) of 2-fluoro-4-methyl-3-nitropyridine in 200 mL (milliliter) of ethyl acetate was added 25 g (0.40 mol) of acetic acid and 0.8 g of 5 percent palladium on carbon catalyst. This mixture was shaken under 50 psig (pounds per square inch gauge, 2400 kiloPascals) pressure of hydrogen for 18 hours, was filtered, and was concentrated by evaporation under reduced pressure to obtain an oil. This oil was partitioned between dilute aqueous sodium bicarbonate and ether. The organic phase was separated, dried over magnesium sulfate, and filtered. The filtrate was concentrated by evaporation under reduced pressure and the residue was purified by column chromatography to obtain 7.2 g (88 percent of theory) of the title compound as a colorless solid melting at 63°-64° C.

reactant | 2-fluoro-4-methyl-3-nitropyridine | 65 mmol, 10.1 g | FC1=NC=CC(=C1[N+](=O)[O-])C | C6H5FN2O2
reactant | acetic acid | 0.40 mol, 25 g | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.8 g | [Pd] | Pd
product | 3-Amino-2-fluoro-4-methylpyridine | NC=1C(=NC=CC1C)F | C6H7FN2
